US06900215B2
Acetic acid 1,1-dimethyl-2-oxopropyl ester was converted to acetic acid 4,4-diethoxy-1,1-dimethyl-2-oxobutyl ester as described in Example 3 and condensed with 2-aminoimidazole hemisulfate as in Example 2 to give 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol as an orange solid: δH (400 MHz, CDCl3) 1.60 (6H, s), 5.31 (1H, s), 7.10 (1H, d, J 7), 7.54 (1H, d, J 1), 7.72 (1H, d, J 1), 8.49 (1H, d, J 7).

reactant | Acetic acid 1,1-dimethyl-2-oxopropyl ester | CC(C(C)=O)(C)OC(C)=O | C7H12O3
reactant | acetic acid 4,4-diethoxy-1,1-dimethyl-2-oxobutyl ester | C(C)OC(CC(C(C)(C)OC(C)=O)=O)OCC | C12H22O5
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | N=1C=CN2C1N=C(C=C2)C(C)(C)O | C9H11N3O
